US05278191
EXAMPLE VI 2-[(3-Chlorophenyl)phenyl]methylaminoacetamide [Compound #15]
A reaction vessel was charged with 8.8 g (40 mmole) of [(3-chlorophenyl)phenyl]methylamine, 4.2 g (50 mmole) of sodium bicarbonate, 7.4 g (40 mmole) of iodoacetamide and 200 ml of absolute ethanol. The resulting suspension was brought to reflux and held at reflux for 18 hours. Solvent was evaporated and the residue was dissolved in dichloromethane. The organic phase was washed with water, dried over potassium carbonate and evaporated. The oil was dissolved in a minimum of ethanol, to which was added a solution of chlorhydric acid in ether. An oil was decanted which crystallized upon stirring. The white solid was then precipitated from ethanol by addition of ether.

reactant | [(3-chlorophenyl)phenyl]methylamine | 40 mmole, 8.8 g | ClC=1C=C(C=CC1)C1=C(C=CC=C1)CN | C13H12ClN
reactant | sodium bicarbonate | 50 mmole, 4.2 g | C([O-])(O)=O.[Na+]
reactant | iodoacetamide | 40 mmole, 7.4 g | ICC(=O)N | C2H4INO
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-[(3-Chlorophenyl)phenyl]methylaminoacetamide | ClC=1C=C(C=CC1)C1=C(C=CC=C1)CNCC(=O)N | C15H15ClN2O
